US06028096
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(prop-1-ynyl)pyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.904 g) in dimethylformamide(2 ml) and triethylamine (10 ml) contained in a stainless steel bomb was added cuprous iodide (60 mg) and bis(triphenylphosphine)palladium(II) chloride (120 mg). The reaction vessel was cooled to -78° C. and propyne (2 g) condensed into it. The vessel was sealed and then heated at 70° C. for 18 hours and then left at room temperature for 2 days. The reaction mixture was partitioned between ether and water. The organic layer was separated, washed with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane:hexane (1:1) to provide the title compound as a white solid m.p. 226-8° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.904 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | propyne | 2 g | C#CC | C3H4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 120 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(prop-1-ynyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#CC | C14H7Cl2F3N4
